2127-01-23 05:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Required 3 pressors overnight, with Supratherapeutic dose on LEVO/NEO
   and max dose Vasopression
   -Elevate PT/PTT/INR-sent DIC labs
   -Vomited feculent material overnight, surgery consulted, NTD from their
   standpoint, unable to tolerate procedure.  With hiatal hernia, NG tube
   not beneficial.
 PICC LINE - START [**2127-1-22**] 08:03 AM
 DIALYSIS CATHETER - START [**2127-1-22**] 08:03 AM
 INVASIVE VENTILATION - START [**2127-1-22**] 08:25 AM
 EKG - At [**2127-1-22**] 10:10 AM
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Lethargy;
   Codeine
   Nausea/Vomiting
   Nortriptyline
   Lightheadedness
   Last dose of Antibiotics:
   Vancomycin - [**2127-1-22**] 10:00 AM
   Tobramycin - [**2127-1-22**] 12:00 PM
   Ampicillin - [**2127-1-22**] 06:00 PM
   Metronidazole - [**2127-1-23**] 12:36 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 2.5 mcg/Kg/min
   Norepinephrine - 0.45 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-1-23**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.6
   HR: 97 (82 - 112) bpm
   BP: 101/58(69) {61/39(47) - 118/66(80)} mmHg
   RR: 22 (14 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    Mixed Venous O2% Sat: 70 - 70
   Total In:
                                                                  6,005 mL
                                                                    762 mL
   PO:
   TF:
   IVF:
                                                                  6,005 mL
                                                                    762 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,005 mL
                                                                    762 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 410 (410 - 550) mL
   RR (Set): 26
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 41 cmH2O/mL
   SpO2: 100%
   ABG: 7.26/38/129/17/-9
   Ve: 13.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   GEN: Toxic appearing, not able to answer quesions
   HEENT: PERRL
   NECK: No JVD, no LAD
   CV: RRR, no M/G/R
   PULM: CTAB, no W/R/R
   ABD: Soft, obese, unable to assess if tender, appears more distended,
   hypoactive bs
   EXT: Charcots feet. xerosis. palp R radial pulse, non-palp pedal
   pulses
   .
   Labs / Radiology
   262 K/uL
   12.0 g/dL
   186 mg/dL
   4.6 mg/dL
   17 mEq/L
   4.6 mEq/L
   25 mg/dL
   100 mEq/L
   132 mEq/L
   37.9 %
   31.2 K/uL
        [image002.jpg]
                             [**2127-1-22**]  07:45 AM
                             [**2127-1-22**]  08:17 AM
                             [**2127-1-22**]  08:20 AM
                             [**2127-1-22**]  10:16 AM
                             [**2127-1-22**]  12:09 PM
                             [**2127-1-22**]  06:07 PM
                             [**2127-1-22**]  08:03 PM
                             [**2127-1-22**]  08:24 PM
                             [**2127-1-23**]  03:17 AM
                             [**2127-1-23**]  03:27 AM
   WBC
   20.0
   31.2
   Hct
   37.7
   37.9
   Plt
   291
   262
   Cr
   4.6
   4.6
   4.6
   TropT
   0.10
   TCO2
   24
   23
   23
   21
   19
   18
   Glucose
   116
   142
   216
   186
   Other labs: PT / PTT / INR:43.3/150.0/4.8, CK / CKMB /
   Troponin-T:68//0.10, ALT / AST:[**7-29**], Alk Phos / T Bili:243/1.1,
   Differential-Neuts:72.0 %, Band:21.0 %, Lymph:4.0 %, Mono:3.0 %,
   Eos:0.0 %, D-dimer:593 ng/mL, Fibrinogen:401 mg/dL, Lactic Acid:3.6
   mmol/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   # Hypotension: Likely septic shock given Actinobacter bacteremia for
   which he was sent from [**Hospital1 **]. This + blood culture was from his
   tunnelled R femoral line.
   -Continue abx:  based on sensitivities, will change antibiotics to
   unasyn and tobramycin to cover acinetobacter and add Vanc to cover MRSA
   (recent staph cx sensitive to Vanc)
   -- surveillance blood cultures
   -- IR placed L femoral and double lumen pick yesterday
   -- Hold CVVH in setting of hypotension and labile pressures and fluid
   shifts.
   .
   # Respiratory failure: His O2 sats were difficult to obtain on the
   floor.  He had very altered mental status so was intubated for airway
   protection.  No obvious infiltrates on CXR.
   -- hold pscyhotropic drugs: gabapentin and narcotics. Continued celexa
   to avoid rebound.
   .
   # Cdiff: During last hospitalization, he was found to have + cdiff
   stool culture on [**1-6**] and was discharged on Flagyl. Given clinical
   picture of infection with high leukocytosis, will continue Flagyl for
   now even though he has no stool.
   -- continue Flagyl given broad-spectrum antibiotics
   -- surveillance Cdiff cultures
   .
   # ?SBO: Surgery following. He was passing flatus prior to the code.
   Possible ileus vs. abscess or other primary infection from
   acinetobacter seeding abdomen
   -- surgery following
   -- Drop OG tube today in attempt to decompress at least hernia
   -- monitor for flatus and BM
   -- F/U on repeat KUB
   .
   # History of graft thrombosis: Multiple clots in grafts and IVC
   in past.  INR elevated today.  Goal INR [**2-11**].  [**Month (only) 60**] need FFP for line
   change.
   - T&S
   - heparin ggt if INR < 2
   -Check labs for possible DIC-fibrinogen currently elevated, will eval
   RBC morph
   .
   # HIV: Last VL was undetectable in [**6-16**].  Continue outpatient HAART
   regimen.
   - Stavudine 20 mg PO Q24H, RiTONAvir 100 mg PO BID, Indinavir Sulfate
   800 mg PO BID, LaMIVudine 150 mg PO Q TUES AND THURS
   .
   # HCV: no recent VL but last VL in 07 was 4,290 IU/mL.  Unclear
   synthetic fx of liver although recent albumin in [**Month (only) 821**] was 2.5.  INR 3.1
   which is presumably from anticoagulation, but may represent a different
   acute process related to infection.  MRI of abdomen showed
   hemosiderosis of liver.
   .
   # Chronic systolic heart failure: EF 35-40% which is global and likely
   from either etoh or cocaine.  Currently hypotensive but this is likely
   from septic shock but not CHF.  PO2 low even on 1.0 FIO2 so will not
   give additional fluids.
   .
   # Anemia: Macrocytic so possibly from liver disease vs HAART.  Appeared
   to iron-deficient in [**Month (only) 102**].  Also ESRD on HD so likley this is a
   contributor.  HCT higher than on discharge on [**1-8**].
   - trend for now
   - check b12/folate
   - guaic stools
   .
   # DM: sliding scale insulin
   .
   # HTN: nifedipine and metoprolol
   .
   # ESRD: on HD
   -- appreciate renal following, will need a new HD line for CVVH
   .
   # L3 compression deformity: chronic
   .
   # FEN: NPO
   # PPX: PPI and anticoagulated, pneumoboots
   # CODE: confirmed full w/ HCP fiance-[**Name (NI) 1288**] [**Telephone/Fax (1) 7496**] but his
   brothers-[**Telephone/Fax (1) 7473**] and fiance will talk today about overall goals of
   care given that he had recently requested DNR/DNI status at last
   admission and poor prognosis.
   # DISPO: ICU for now
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O LINE INFECTION (CENTRAL OR ARTERIAL)
 SHOCK, SEPTIC
 WOUND INFECTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-1-22**] 07:35 AM
   PICC Line - [**2127-1-22**] 08:03 AM
   Dialysis Catheter - [**2127-1-22**] 08:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-01-24 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2127-1-23**]
   - No advancement of care
   - Vasopressin weaned (Still on Neo/Levo), then restarted
   - ? CVVH today
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Lethargy;
   Codeine
   Nausea/Vomiting
   Nortriptyline
   Lightheadedness
   Last dose of Antibiotics:
   Vancomycin - [**2127-1-22**] 10:00 AM
   Tobramycin - [**2127-1-22**] 12:00 PM
   Ampicillin - [**2127-1-23**] 04:51 PM
   Metronidazole - [**2127-1-24**] 12:11 AM
   Infusions:
   Fentanyl - 15 mcg/hour
   Phenylephrine - 2.5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2127-1-24**] 03:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-1-24**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 100 (92 - 104) bpm
   BP: 96/55(65) {90/45(56) - 118/64(78)} mmHg
   RR: 26 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  3,206 mL
                                                                    863 mL
   PO:
             TF:
   IVF:
                                                                  3,206 mL
                                                                    863 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                  2,406 mL
                                                                    863 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 410 (410 - 410) mL
   RR (Set): 28
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   Compliance: 51.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.25/37/101/16/-10
   Ve: 13.4 L/min
   PaO2 / FiO2: 202
   Physical Examination
   GEN: Toxic appearing, not able to answer quesions
   HEENT: PERRL
   NECK: No JVD, no LAD
   CV: RRR, no M/G/R
   PULM: CTAB, no W/R/R
   ABD: Soft, obese, unable to assess if tender, appears more distended,
   hypoactive bs
   EXT: Charcots feet. xerosis. palp R radial pulse, non-palp pedal
   pulses
   .
   Labs / Radiology
   225 K/uL
   10.6 g/dL
   128 mg/dL
   4.9 mg/dL
   16 mEq/L
   5.7 mEq/L
   33 mg/dL
   102 mEq/L
   132 mEq/L
   33.1 %
   28.8 K/uL
        [image002.jpg]
                             [**2127-1-22**]  08:03 PM
                             [**2127-1-22**]  08:24 PM
                             [**2127-1-23**]  03:17 AM
                             [**2127-1-23**]  03:27 AM
                             [**2127-1-23**]  06:53 AM
                             [**2127-1-23**]  03:18 PM
                             [**2127-1-23**]  04:07 PM
                             [**2127-1-24**]  03:00 AM
                             [**2127-1-24**]  03:16 AM
                             [**2127-1-24**]  04:36 AM
   WBC
   31.2
   30.4
   28.8
   Hct
   37.9
   35.6
   33.1
   Plt
   [**Telephone/Fax (3) 7513**]
   Cr
   4.6
   4.6
   4.8
   4.9
   TCO2
   19
   18
   19
   19
   17
   17
   Glucose
   [**Telephone/Fax (3) 7514**]28
   Other labs: PT / PTT / INR:38.2/91.5/4.1, CK / CKMB /
   Troponin-T:68//0.10, ALT / AST:[**7-29**], Alk Phos / T Bili:243/1.1,
   Differential-Neuts:72.0 %, Band:21.0 %, Lymph:4.0 %, Mono:3.0 %,
   Eos:0.0 %, D-dimer:569 ng/mL, Fibrinogen:404 mg/dL, Lactic Acid:2.6
   mmol/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   # Hypotension: Likely septic shock given Actinobacter bacteremia for
   which he was sent from [**Hospital1 **]. This + blood culture was from his
   tunnelled R femoral line.
   -Continue abx:  based on sensitivities, will change antibiotics to
   unasyn and tobramycin to cover acinetobacter and add Vanc to cover MRSA
   (recent staph cx sensitive to Vanc)
   -- surveillance blood cultures
   -- IR placed L femoral and double lumen pick yesterday
   -- Hold CVVH in setting of hypotension and labile pressures and fluid
   shifts.
   .
   # Respiratory failure: His O2 sats were difficult to obtain on the
   floor.  He had very altered mental status so was intubated for airway
   protection.  No obvious infiltrates on CXR.
   -- hold pscyhotropic drugs: gabapentin and narcotics. Continued celexa
   to avoid rebound.
   .
   # Cdiff: During last hospitalization, he was found to have + cdiff
   stool culture on [**1-6**] and was discharged on Flagyl. Given clinical
   picture of infection with high leukocytosis, will continue Flagyl for
   now even though he has no stool.
   -- continue Flagyl given broad-spectrum antibiotics
   -- surveillance Cdiff cultures
   .
   # ?SBO: Surgery following. He was passing flatus prior to the code.
   Possible ileus vs. abscess or other primary infection from
   acinetobacter seeding abdomen
   -- surgery following
   -- Drop OG tube today in attempt to decompress at least hernia
   -- monitor for flatus and BM
   -- F/U on repeat KUB
   .
   # History of graft thrombosis: Multiple clots in grafts and IVC
   in past.  INR elevated today.  Goal INR [**2-11**].  [**Month (only) 60**] need FFP for line
   change.
   - T&S
   - heparin ggt if INR < 2
   -Check labs for possible DIC-fibrinogen currently elevated, will eval
   RBC morph
   .
   # HIV: Last VL was undetectable in [**6-16**].  Continue outpatient HAART
   regimen.
   - Stavudine 20 mg PO Q24H, RiTONAvir 100 mg PO BID, Indinavir Sulfate
   800 mg PO BID, LaMIVudine 150 mg PO Q TUES AND THURS
   .
   # HCV: no recent VL but last VL in 07 was 4,290 IU/mL.  Unclear
   synthetic fx of liver although recent albumin in [**Month (only) 821**] was 2.5.  INR 3.1
   which is presumably from anticoagulation, but may represent a different
   acute process related to infection.  MRI of abdomen showed
   hemosiderosis of liver.
   .
   # Chronic systolic heart failure: EF 35-40% which is global and likely
   from either etoh or cocaine.  Currently hypotensive but this is likely
   from septic shock but not CHF.  PO2 low even on 1.0 FIO2 so will not
   give additional fluids.
   .
   # Anemia: Macrocytic so possibly from liver disease vs HAART.  Appeared
   to iron-deficient in [**Month (only) 102**].  Also ESRD on HD so likley this is a
   contributor.  HCT higher than on discharge on [**1-8**].
   - trend for now
   - check b12/folate
   - guaic stools
   .
   # DM: sliding scale insulin
   .
   # HTN: nifedipine and metoprolol
   .
   # ESRD: on HD
   -- appreciate renal following, will need a new HD line for CVVH
   .
   # L3 compression deformity: chronic
   .
   # FEN: NPO
   # PPX: PPI and anticoagulated, pneumoboots
   # CODE: confirmed full w/ HCP fiance-[**Name (NI) 1288**] [**Telephone/Fax (1) 7496**] but his
   brothers-[**Telephone/Fax (1) 7473**] and fiance will talk today about overall goals of
   care given that he had recently requested DNR/DNI status at last
   admission and poor prognosis.
   # DISPO: ICU for now
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O LINE INFECTION (CENTRAL OR ARTERIAL)
 SHOCK, SEPTIC
 WOUND INFECTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-1-22**] 07:35 AM
   PICC Line - [**2127-1-22**] 08:03 AM
   Dialysis Catheter - [**2127-1-22**] 08:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: